US06462081B1
1-Bromo-3-Methoxymethylbenzene
To a solution of 3-bromobenzyl bromide (15.0 g, 60 mmol) in methanol-dimethoxyethane (DME) (30 ml+10 ml), sodium methylate (4.9 g, 90 mmol) was added under cooling with ice. The mixture was stirred for 1 hour at room temperature. The reaction mixture was poured into water and extracted with ether. The organic layer was washed by an aqueous saturated solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off to obtain the title compound ( 12.1 g) having the following physical data.

reactant | 3-bromobenzyl bromide | 60 mmol, 15.0 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | sodium methylate | 90 mmol, 4.9 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol dimethoxyethane | 30 ml | CO.C(OC)COC
product | 1-Bromo-3-Methoxymethylbenzene | 12.1 g | BrC1=CC(=CC=C1)COC | C8H9BrO
